US06670359B2
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-pyrrole-2-carboxamide
A mixture of 1,1′-carbonyldiimidazole (360 mg, 1.85 mmol) and pyrrole-2-carboxylic acid (225 mg, 2.03 mmol) in anhydrous N,N-dimethylformamide (8 mL) was stirred at 75° C. for 45 min. The mixture was allowed to cool, and a solution of (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran (457 mg, 1.85 mmol) in N,N-dimethylformamide (10 mL) was added. The reaction mixture was stirred for 7 days at room temperature under nitrogen. The solvent was removed in vacuo, and the residue was extracted with diethyl ether (50 mL) and water (20 mL). The aqueous layer was extracted with another portion of diethyl ether (50 mL). The combined ethereal layers were dried (MgSO4), and the solvent was removed in vacuo. The residue was purified by column chromatography on silica (eluent: chloroform/ethanol; 90:10+0.5% conc. NH3) yielding the title compound as an oil. Evaporation with diethyl ether afforded 300 mg (48% yield) of the title compound as a white powder: mp sinters >96° C.; [α]21D−82.8° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 340 (10, M+).

reactant | 1,1′-carbonyldiimidazole | 1.85 mmol, 360 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pyrrole-2-carboxylic acid | 2.03 mmol, 225 mg | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran | 1.85 mmol, 457 mg | N[C@@H]1COC2=C(C1)C(=CC=C2)N2CCN(CC2)C | C14H21N3O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-pyrrole-2-carboxamide | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(=O)C=2NC=CC2 | C19H24N4O2
